US06413447B1
(1) Synthesis of p-n-Dodecylbenzaldehyde
To 70 mL of dehydrated dichloromethane, 24.68 g (100 mmol) of n-dodecylbenzene was added and 36.82 g (189 mmol) of titanium tetrachloride was gradually added in drops. The reaction system kept below 10° C. in an ice bath and 13.16 9 (114 mmol) of 1,1-dichloromethl methy ether added in drops thereto were stirred together below 10° C. for 30 minutes and further stirred at a room temperature for 45 minutes. The resultant reaction mixture was added to 500 mL of ice water. It was extracted four times with 200 mL of dichloromethane and dried overnight on sodium sulfate. The solvent was removed by the use of an evaporator and purified by column chromatography (silica gel, benzene:hexene =1:1). Consequently, 11.22 g (40.2 mmol) of a light yellow slightly viscous liquid was obtained. The yield was 40%.

reactant | n-dodecylbenzene | 100 mmol, 24.68 g | C(CCCCCCCCCCC)C1=CC=CC=C1 | C18H30
reactant | 1,1-dichloromethl methy ether | COC(Cl)Cl | C2H4Cl2O
catalyst | titanium tetrachloride | 189 mmol, 36.82 g | [Ti](Cl)(Cl)(Cl)Cl
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
product | p-n-Dodecylbenzaldehyde | yield was 40% | C(CCCCCCCCCCC)C1=CC=C(C=O)C=C1 | C19H30O
